US04885153
To a solution of 1.29 g (1.84 mmol) of tri-n-butylstannyl 4-(tri-n-butylstannyl)benzoate in 18.4 mL of anhydrous THF was added 417 mg (2.02 mmol) of dicyclohexylcarbodiimide (Sigma) and 212 mg (1.84 mmol) of N-hydroxysuccinimide (Sigma, and the mixture was stirred for 15 hours at room temperature. To the mixture was then added three drops of HOAc. The solids were removed by filtration, and the mixture was concentrated. Purification by silica gel chromatography (25% EtOAc/hexane) yielded 731 mg (78%) of N-succinimidyl 4-(tri-n-butylstannyl)benzoate: 1H NMR (CDCl3)δ 0.50-2.20 (m, 27H), 2.90 (s, 4H), 7.65 (d, J=8 Hz, 2H), 8.06 (d, J=8 Hz, 2H). IR (neat) 1780, 1750, 1190, 1055, 980 cm-1.

reactant | tri-n-butylstannyl 4-(tri-n-butylstannyl)benzoate | 1.84 mmol, 1.29 g | C(CCC)[Sn](C1=CC=C(C(=O)O[Sn](CCCC)(CCCC)CCCC)C=C1)(CCCC)CCCC
reactant | dicyclohexylcarbodiimide | 2.02 mmol, 417 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | 1.84 mmol, 212 mg | ON1C(CCC1=O)=O | C4H5NO3
solvent | THF | 18.4 mL | C1CCOC1 | C4H8O
catalyst | HOAc | three drops | CC(=O)O | C2H4O2
product | N-succinimidyl 4-(tri-n-butylstannyl)benzoate | 731 mg, 78% | CCCC[Sn](CCCC)(CCCC)C1=CC=C(C=C1)C(=O)ON2C(=O)CCC2=O | InChI=1S/C11H8NO4.3C4H9.Sn/c13-9-6-7-10(14)12(9)16-11(15)8-4-2-1-3-5-8;3*1-3-4-2;/h2-5H,6-7H2;3*1,3-4H2,2H3;
